US06320059B1
Preparation of 4-Bromo-2-(4-chlorophenyl)-5-(trifluoromethyl)pyrrole-3-carbonitrile
A solution of N-[1-chloro-(2,2,2-trifluoroethyl)]-4-chlorobenzimidoyl chloride (5.80 g, 0.02 mol) and acrylonitrile (1.33 g, 0.025 mol) in N,N-dimethyl-formamide (15 mL) under a nitrogen atmosphere is treated with N,N-diisopropylethylamine (DIPEA, 7.8 g, 0.06 mol) over 30 minutes, heated to and held at 45-47° C. for 18 hours, cooled to room temperature, treated with bromine (3.2 g, 0.02 mol), stirred at room temperature for 1 hour, quenched with water, and extracted with ethyl acetate. The organic extract is concentrated in vacuo to obtain a residue. Flash column chromatography of the residue on silica gel, packed with 15% ethyl acetate in heptane and eluted with 20% ethyl acetate in heptane, gives the title product as white solid (1.6 g, 22.9% yield) which is identified by 1H and 19F NMR spectral analyses.

reactant | N-[1-chloro-(2,2,2-trifluoroethyl)]-4-chlorobenzimidoyl chloride | 0.02 mol, 5.80 g | ClC(C(F)(F)F)N=C(C1=CC=C(C=C1)Cl)Cl | C9H5Cl3F3N
reactant | acrylonitrile | 0.025 mol, 1.33 g | C(C=C)#N | C3H3N
reactant | N,N-diisopropylethylamine | 0.06 mol, 7.8 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | bromine | 0.02 mol, 3.2 g | BrBr | Br2
solvent | N,N-dimethyl-formamide | 15 mL | CN(C=O)C | C3H7NO
solvent | heptane | CCCCCCC | C7H16
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-Bromo-2-(4-chlorophenyl)-5-(trifluoromethyl)pyrrole-3-carbonitrile | 1.6 g, 22.9% yield | BrC=1C(=C(NC1C(F)(F)F)C1=CC=C(C=C1)Cl)C#N | C12H5BrClF3N2
